US04179277
A solution of 20 g (0.225 mol) of carbamic acid ethyl ester and 21.8 g (0.1 mol) of 4,5-dichloro-2-dichloromethylene-imidazole in 50 ml of dioxane was heated briefly to the boil (about 115° C.) After cooling, the product was precipitated with water, filtered off, washed with water and dried. 15 g (60% of theory) of N-(4,5-dichloroimidazol-2-oyl)-carbamic acid ethyl ester with a melting point of 208° C. (from acetonitrile) were obtained.

reactant | carbamic acid ethyl ester | 0.225 mol, 20 g | C(C)OC(N)=O | C3H7NO2
reactant | 4,5-dichloro-2-dichloromethylene-imidazole | 0.1 mol, 21.8 g | ClC1=NC(N=C1Cl)=C(Cl)Cl | C4Cl4N2
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-(4,5-dichloroimidazol-2-oyl)-carbamic acid ethyl ester | 15 g, 60% | C(C)OC(NC(=O)C=1NC(=C(N1)Cl)Cl)=O | C7H7Cl2N3O3
